US08067408B2
3-[({[6-Fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}-amino)carbonyl]benzoic Acid
Methyl 3-[({[6-fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}amino)-carbonyl]benzoate (0.309 g, 0.786 mmol), lithium hydroxide (0.0282 g, 1.2 mmol), THF (6 mL), and water (2 mL) were combined and stirred under argon at room temperature overnight. Solvents were pumped off, the residue adjusted to pH 2 with 1N HCl, and extracted with EtOAc, washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to afford the title compound as a white solid. LC-MS m/z 379.8 (M+H)+, 1.69 min (ret time); mp 169-171° C.; analytical HPLC shows 93.2% purity, (ret time 7.059 min).

reactant | Methyl 3-[({[6-fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}amino)-carbonyl]benzoate | 0.786 mmol, 0.309 g | FC1=CC=C(C=C1C1=CC(=CC=C1)CO)CNC(=O)C=1C=C(C(=O)OC)C=CC1 | C23H20FNO4
reactant | lithium hydroxide | 1.2 mmol, 0.0282 g | [OH-].[Li+]
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 3-[({[6-Fluoro-3′-(hydroxymethyl)-3-biphenylyl]methyl}-amino)carbonyl]benzoic Acid | FC1=CC=C(C=C1C1=CC(=CC=C1)CO)CNC(=O)C=1C=C(C(=O)O)C=CC1 | C22H18FNO4
